US08071631B2
4-Methyl-N-[5-(phenyl)-pyridine-2-yl]benzenesulfonamide
To a solution of 5-phenylpyridin-2-amine (340 mg, 2 mmol) in dry pyridine (10 mL) was added 4-methylbenzenesulfonyl chloride (427 mg, 2.24 mmol). The solution was stirred at room temperature under Argon. The pyridine was then removed in vacuo and flashed off with toluene. The residue was partitioned between EtOAc and 1M NaOH. The organic phase was washed with 1M NaOH until no turbidity was observed on rectification of a small sample. The alkaline phase was made acidic (˜pH 3) with 1M HCl and extracted with EtOAc. After drying over Na2SO4, solvent was removed in vacuo. The crude product weighed 0.24 g. The crude product was taken up in 10 mL of hot EtOAc, diluted with 10 mL of hexane and seeded to give 209 mg of white needles with mp 187-189° C.

reactant | 5-phenylpyridin-2-amine | 2 mmol, 340 mg | C1(=CC=CC=C1)C=1C=CC(=NC1)N | C11H10N2
reactant | 4-methylbenzenesulfonyl chloride | 2.24 mmol, 427 mg | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 4-Methyl-N-[5-(phenyl)-pyridine-2-yl]benzenesulfonamide | 209 mg | CC1=CC=C(C=C1)S(=O)(=O)NC1=NC=C(C=C1)C1=CC=CC=C1 | C18H16N2O2S
